US05015678
4-Benzoyloxy-1-(2-methoxycarbonylethoxy)-2,2,6,6-tetramethylpiperidine
When following the general procedure of Example 3 the bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) phthalate is replaced by an equivalent amount of 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine, the title compound is obtained as a white solid melting at 64°-69° C.

reactant | bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) phthalate | C(C=1C(C(=O)OC2CC(N(C(C2)(C)C)O)(C)C)=CC=CC1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C26H40N2O6
reactant | 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C16H23NO3
product | 4-Benzoyloxy-1-(2-methoxycarbonylethoxy)-2,2,6,6-tetramethylpiperidine | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OCCC(=O)OC)(C)C | C20H29NO5
